US04925853
2-(4-Chlorobenzyl)-4-hydroxy-7-methylbenzimidazole hydrobromide
A suspension of 2-(4-chlorobenzyl)-4-methoxy-7-methylbenzimidazole (4.0 g) in 48% aqueous hydrobromic acid (400 ml) under nitrogen was heated at 130° for 5 h, then evaporated to dryness in vacuo. The residue was recrystallized from ethanol-ether to afford the title compound (3.95 g), m.p. 275°-277° C.

reactant | 2-(4-chlorobenzyl)-4-methoxy-7-methylbenzimidazole | 4.0 g | ClC1=CC=C(CC=2NC3=C(N2)C(=CC=C3OC)C)C=C1 | C16H15ClN2O
reactant | hydrobromic acid | 400 ml | Br | BrH
product | 2-(4-Chlorobenzyl)-4-hydroxy-7-methylbenzimidazole hydrobromide | 3.95 g | Br.ClC1=CC=C(CC=2NC3=C(N2)C(=CC=C3O)C)C=C1 | InChI=1S/C15H13ClN2O.BrH/c1-9-2-7-12(19)15-14(9)17-13(18-15)8-10-3-5-11(16)6-4-10;/h2-7,19H,8H2,1H3,(H,17,18);1H
